US07417040B2
To a stirred mixture of (5-Bromo-2-iodo-phenyl)-m-ethanol (9.14 g, 29.2 mmol) in CH3Cl (150 mL) under argon was added 1M PBr3 in CH2Cl2 (35.0 mL, 35.0 mmol). The reaction mixture was stirred at room temperature for 20 min and then poured into a mixture of ice and saturated NaHCO3 solution (300 mL). The pH was adjusted to basic by addition of solid NaHCO3. This aqueous layer was extracted with EtOAc (1×600 mL, 2×400 mL). The combined EtOAc extracts were washed with brine (1×100 mL). The organic layer was dried (MgSO4), filtered and concentrated in vacuo to give 4-bromo-2-bromomethyl-1-iodo-benzene (5.69 g, 52%). 1H NMR (CDCl3): δ 7.68 (d, 1H, J=8.80 Hz), 7.59 (s, 1H), 7.18 (d, 1H, J=8.80 Hz), 4.51 (s, 2H). HPLC: Rt=3.87 min.

reactant | (5-Bromo-2-iodo-phenyl)-m-ethanol | 29.2 mmol, 9.14 g | BrC=1C=CC(=C(C1)CO)I | C7H6BrIO
reactant | PBr3 | 1M | P(Br)(Br)Br | Br3P
reactant | CH2Cl2 | 35.0 mmol, 35.0 mL | C(Cl)Cl | CH2Cl2
reactant | NaHCO3 | 300 mL | C(=O)(O)[O-].[Na+]
solvent | CH3Cl | 150 mL | CCl | CH3Cl
product | 4-bromo-2-bromomethyl-1-iodo-benzene | 5.69 g, 52% | BrC1=CC(=C(C=C1)I)CBr | C7H5Br2I
